* Extracted by KLayout with GF180MCU LVS runset on : 28/07/2026 02:00

.SUBCKT programmable_pfet b s d g VSS ena<1> ena<0> ena_bar<1> ena_bar<0>
M$1 \$9 ena<0> \$4 \$9 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$2 \$9 ena<1> \$8 \$9 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$3 d \$8 s b pfet_03v3 L=1U W=184U AS=83.72P AD=83.72P PS=294.2U PD=294.2U
M$23 s g d b pfet_03v3 L=1U W=92U AS=59.8P AD=59.8P PS=197U PD=197U
M$26 s \$4 d b pfet_03v3 L=1U W=92U AS=59.8P AD=59.8P PS=197U PD=197U
M$43 \$4 ena_bar<0> g \$9 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$44 \$8 ena_bar<1> g \$9 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$45 \$4 ena<0> g VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
M$46 \$8 ena<1> g VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
.ENDS programmable_pfet
